US05516806
trans-3-Aminooxymethyl-cyclobutylamine dihydrochloride
Analogously to Example 6, starting from 7.25 g (0.02093 mol) of 2-[trans-3-(N-BOC-amino)-cyclobutylmethoxy]-1H-isoindole-1,3(2H)-dione, 35 ml of water and 30 ml of concentrated hydrochloric acid, the title compound is obtained, m.p. 198° C. (decomp.).

reactant | 2-[trans-3-(N-BOC-amino)-cyclobutylmethoxy]-1H-isoindole-1,3(2H)-dione | 0.02093 mol, 7.25 g | C(=O)(OC(C)(C)C)N[C@@H]1C[C@H](C1)CON1C(C2=CC=CC=C2C1=O)=O | C18H22N2O5
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 35 ml | O | H2O
product | trans-3-Aminooxymethyl-cyclobutylamine dihydrochloride | Cl.Cl.NOC[C@@H]1C[C@H](C1)N | InChI=1S/C5H12N2O.2ClH/c6-5-1-4(2-5)3-8-7;;/h4-5H,1-3,6-7H2;2*1H/t4-,5-;;
